US04240822
Preparation of 4-Bromo-5,6-dimethyl-1H-benzotriazole
To a solution of 25.0 grams of 5,6-dimethylbenzotriazole in 250 milliliters of acetic acid at 50° C. is slowly added 30.5 grams of bromine in 75 ml. of the same solvent over a 11/4 hour period. The temperature is held at 50° C. for an additional hour and then the reaction mixture is allowed to cool to room temperature. The product is collected by filtration, 19.2 grams (56%), m.p. 255°-262° C. The analytical sample has a m.p. of 259°-261° C.

reactant | 5,6-dimethylbenzotriazole | 25.0 grams | CC1=CC2=C(NN=N2)C=C1C | C8H9N3
reactant | bromine | 30.5 grams | BrBr | Br2
solvent | acetic acid | 250 milliliters | C(C)(=O)O | C2H4O2
product | 4-Bromo-5,6-dimethyl-1H-benzotriazole | BrC1=C(C(=CC=2NN=NC21)C)C | C8H8BrN3
